US08633186B2
To a solution of 2,6-dinitrobenzonitrile (10.0 g, 52.3 mmol) in MeOH (215 mL), was added a solution of Na (1.32 g, 57.5 mmol) in MeOH (23.3 mL). The reaction was refluxed under N2 for 2.5 hours, cooled to rt and the precipitate was collected by filtration. The resulting residue was combined with pyridine hydrochloride (15.1 g, 130 mmol), and the solids were melted at 200° C. for 18 hours. Upon completion, the reaction was cooled to rt, washed with brine (1×300 mL) and extracted with EtOAc (2×500 mL). The organic layers were combined, dried over MgSO4, filtered and concentrated to provide 2-hydroxy-6-nitrobenzonitrile (6.70 g, 87%). 1H NMR (400 MHz, MeOD) δ 7.35 (dd, J=8.3, 0.8 Hz, 1H), 7.67 (t, J=8.2 Hz, 1H), 7.77 (dd, J=8.2, 1.1 Hz, 1H).

reactant | 2,6-dinitrobenzonitrile | 52.3 mmol, 10.0 g | [N+](=O)([O-])C1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C7H3N3O4
reactant | pyridine hydrochloride | 130 mmol, 15.1 g | Cl.N1=CC=CC=C1
reactant | MeOH | 215 mL | CO | CH4O
reactant | MeOH | 23.3 mL | CO | CH4O
product | 2-hydroxy-6-nitrobenzonitrile | 6.70 g, 87% | OC1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C7H4N2O3
